US20010027196A1
2-Amino-4-(2-phenylamino-ethylamino)-6-pyrazol-1-yl-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile and N-phenylethylenediamine in DME. ES-MS m/e (%): 321 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)N1N=CC=C1 | C9H8N6OS
reactant | N-phenylethylenediamine | C1(=CC=CC=C1)NCCN | C8H12N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(2-phenylamino-ethylamino)-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCCNC1=CC=CC=C1)C#N)N1N=CC=C1 | C16H16N8
